### PR TITLE
Add Erdős Problem 927 (numbers of clique sizes), linked to the formal disproof

### LINKED ISSUE #6122: Erdős Problem 927
### What is the Erdős problem?

https://www.erdosproblems.com/927

Let $g(n)$ be the maximum number of different sizes of cliques (maximal complete subgraphs) that can occur in a graph on $n$ vertices. Estimate $g(n)$ — in particular, is it true that
$$g(n)=n-\log_2n-\log_*(n)+O(1),$$
where $\log_*(n)$ is the number of iterated logarithms such that $\log\cdots\log n<1$?

Status: disproved (Spencer [Sp71]: $g(n) > n-\log_2 n-O(1)$). A complete formal proof exists in plby/lean-proofs (`Erdos927.not_erdos_927`, Jennings and Aristotle).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6122.

### What changed
Adds `FormalConjectures/ErdosProblems/927.lean` with `g n` (the maximum number of sizes of maximal cliques of a graph on `n` vertices, via the existing `SimpleGraph.cliqueSizes`), `logStar`, and `erdos_927` (`research solved`, `answer(False)`): Erdős's conjecture `g(n) = n - log₂ n - log*(n) + O(1)` (in the form of two-sided eventual bounds with `Nat.log 2` and `logStar`), disproved by Spencer. Linked to plby/lean-proofs `Erdos927.not_erdos_927` (Jennings and Aristotle, kernel-checked version by Mallen), which refutes the upper-bound half.

### How checked
- Rebuilt the closure (9 Mathlib-only files) against this repo's Mathlib: `#print axioms Erdos927.not_erdos_927` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy of their proof (their `maximalCliqueSizes` is `SimpleGraph.cliqueSizes`, their `g` and `logStar` are ours), same axioms:

<details><summary>bridge</summary>

```lean
theorem cliqueSizes_eq {n : ℕ} (G : SimpleGraph (Fin n)) :
    SimpleGraph.cliqueSizes G = ↑(Erdos927Plby.maximalCliqueSizes G) := by
  classical
  ext k
  simp only [SimpleGraph.cliqueSizes, Set.mem_ofPred_eq, Erdos927Plby.maximalCliqueSizes,
    Finset.coe_image, Finset.coe_filter, Finset.mem_univ, true_and, Set.mem_image,
    Set.mem_ofPred_eq]
  constructor
  · rintro ⟨S, hS, rfl⟩
    refine ⟨S, ⟨hS.1, fun T hT hST => ?_⟩, rfl⟩
    exact Finset.Subset.antisymm (hS.2 hT hST) hST
  · rintro ⟨S, ⟨hS, hmax⟩, rfl⟩
    refine ⟨S, ⟨hS, fun T hT hST => ?_⟩, rfl⟩
    rw [hmax T hT hST]

theorem g_eq (n : ℕ) : Erdos927.g n = Erdos927Plby.g n := by
  classical
  unfold Erdos927.g Erdos927Plby.g
  refine Finset.sup_congr rfl fun G _ => ?_
  rw [cliqueSizes_eq, Set.ncard_coe_finset]

theorem logStar_eq : Erdos927.logStar = Erdos927Plby.logStar := by
  funext n
  induction n using Nat.strong_induction_on with
  | _ n ih =>
    match n with
    | 0 => simp [Erdos927.logStar, Erdos927Plby.logStar]
    | 1 => simp [Erdos927.logStar, Erdos927Plby.logStar]
    | n + 2 =>
      rw [Erdos927.logStar, Erdos927Plby.logStar]
      have : Nat.log 2 (n + 2) < n + 2 := by
        apply Nat.log_lt_of_lt_pow (by omega)
        exact Nat.lt_pow_self (by norm_num : (1 : ℕ) < 2)
      rw [ih _ this]

theorem erdos_927_bridge : type_of% Erdos927.erdos_927 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨C, hC⟩
  apply Erdos927Plby.not_erdos_927
  rw [eventually_atTop] at hC
  obtain ⟨n₀, hn₀⟩ := hC
  refine ⟨C, n₀, fun n hn => ?_⟩
  have := (hn₀ n hn).1
  rwa [g_eq, logStar_eq] at this
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«927»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/927.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+  | 0 => 0
+  | 1 => 0
+  | (n + 2) => logStar (Nat.log 2 (n + 2)) + 1
+termination_by n => n
+decreasing_by
+  simp_wf
+  have : Nat.log 2 (n + 2) < n + 2 := by
+    apply Nat.log_lt_of_lt_pow (by omega)
+    exact Nat.lt_pow_self (by norm_num : (1 : ℕ) < 2)
+  omega
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/927.lean]: potenially move next to `Real.iteratedLog` as `Nat.iteratedLog`?

Comment (Konamiu) [reply FormalConjectures/ErdosProblems/927.lean]: Done: added `Nat.iteratedLog (b : ℕ) : ℕ → ℕ` (general base, with `iteratedLog_zero`/`iteratedLog_one`/`iteratedLog_of_two_le`) next to `Real.iteratedLog` in `FormalConjecturesForMathlib/Analysis/SpecialFunctions/Log/Basic.lean`, and the statement now uses `Nat.iteratedLog 2 n`. Bridge to plby's `logStar` re-verified.

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
